US04382958
To a solution of N-[2-(4-(3-carbomethoxyprop-2-eneoxy)phenyl)-1-methylethyl]-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine (1.5 g) in absolute ethanol (50 ml) was added 10% Pd/C (200 mg) and the mixture hydrogenated at ambient temperature and atmospheric pressure until hydrogen uptake had ceased,(approximately 30 minutes). The mixture was filtered and the ethanol evaporated to leave N-[2-(4-(3-carbomethoxypropoxy)phenyl)-1-methylethyl]-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine as a light yellow oil which crystallised from hexane (1,0 g) m.p. 50°-60°.

reactant | N-[2-(4-(3-carbomethoxyprop-2-eneoxy)phenyl)-1-methylethyl]-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine | 1.5 g | C(=O)(OC)C=CCOC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)C(F)(F)F)O | C23H26F3NO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | N-[2-(4-(3-carbomethoxypropoxy)phenyl)-1-methylethyl]-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine | C(=O)(OC)CCCOC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)C(F)(F)F)O | C23H28F3NO4
